US06965040B1
A solution of piperidine (22.8 mL, 230 mmol) in anhydrous THF (50 mL) was added dropwise to a solution of 2-(2-nitrophenyl)propyl chloroformate (28.20 g) in anhydrous THF (100 mL). The reaction mixture was then brought to reflux for 3 h and stirred at room temperature overnight. The solvent was evaporated to afford light brown oil. The mixture was diluted with ether (100 mL) and water (100 mL) was added. The organic phase was separated and the aqueous phase was re-extracted with ether (3×50 mL). The organic extracts were combined and dried over MgSO4, filtered, and the solvent was removed in vacuo. The residue was purified on a silica gel column. Elution of the column with 20% ethyl acetate in hexanes gave 16.54 g (56.6 mmol, 63.6% yield, 56.6% total yield) of 2-(2-nitrophenyl)propoxycarbonyl piperidine. 1H-NMR (600 MHz, DMF-d7): δ 7.88 (d, J=8.1 Hz, 1 H, Ar—H), 7.74 (m, 2 H, Ar—H), 7.53 (t, J=7.1 Hz, 1 H, Ar—H), 4.23 (m, 2 H, CH2), 3.54 (m, 1 H, CH), 3.24 (m, 4 H, CH2), 1.50 (m, 2 H, CH2), 1.35 (m, 7 H, CH2 and CH3). 13C-NMR (150 MHz, DMF-d7): δ 155.09 (OCOR), 151.50 (C ipso to NO2), 137.90 (C ipso to CH(CH3)CH2OCOR), 133.49 (C para to NO2), 129.31 (C para to CH(CH3)CH2OCOR), 128.44 (C ortho to CH(CH3)CH2OCOR), 124.35 (C ortho to N02), 69.45 (CH2OCOR), 45.08 (Cα to ring N), 34.26 (CH), 26.08 (Cβ to ring N), 24.69 (Cγ to ring N), 17.91 (CH3). TLC: 20% ethyl acetate in hexanes, Rf=0.4. Mass analysis (MALDI-TOF): calculated for C15H21N2O4 293.34, found 293.24.

reactant | piperidine | 230 mmol, 22.8 mL | N1CCCCC1 | C5H11N
reactant | 2-(2-nitrophenyl)propyl chloroformate | 28.20 g | ClC(=O)OCC(C)C1=C(C=CC=C1)[N+](=O)[O-] | C10H10ClNO4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | water | 100 mL | O | H2O
product | 2-(2-nitrophenyl)propoxycarbonyl piperidine | 56.6 mmol, 16.54 g, 63.6% yield | [N+](=O)([O-])C1=C(C=CC=C1)C(COC(=O)N1CCCCC1)C | C15H20N2O4
